US08476224B2
To a solution of 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid tert-butyl ester (3.0 g, 9.009 mmol) in THF (80 mL) is added TEA (0.24 mL, 1.724 mmol) and 10% Pd/C (wet) (420 mg). The mixture stirs under a blanket of hydrogen gas at atmospheric pressure for 12 h. The mixture is then filtered though celite. The celite is washed with MeOH (50 mL). The filtrated is concentrated to afford 1.8 g of 4-amino-cyclohexanecarboxylic acid tert-butyl ester. LC/MS: [M+H]+ 200, Rt=0.39 min (method 6).

reactant | 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid tert-butyl ester | 9.009 mmol, 3.0 g | C(C)(C)(C)OC(=O)C1CCC(CC1)NC(=O)OCC1=CC=CC=C1 | C19H27NO4
reactant | hydrogen | [H][H] | H2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 420 mg | [Pd] | Pd
product | 4-amino-cyclohexanecarboxylic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(=O)C1CCC(CC1)N | C11H21NO2
